### PR TITLE
feat(ClassicalMechanics/HarmonicOsciallator): a few refactors and a new lemma

### PR DESCRIPTION
**Pull request by Bergschaf**
Hi,
I am an undergraduate physics student with a bit of lean experience and I just came across physlib. I was looking around the files and found a few things that could be expressed a bit cleaner (namely using @[ext] annotations). 
I also added a new lemma about the periodicity of the trajectory of a harmonic oscillator. For this, i introduced the definition of the period T of a harmonic oscillator. Please give me some feedback if this is desirable here or if there are better design choices.

### CODE REVIEW

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 1]
```diff
@@ -880,14 +849,51 @@ We give some open TODOs for the classical harmonic oscillator.
 
 -/
 
+end InitialConditions
+
+/--
+The period of a Harmonic Osciallator is `2 * π / ω`.
+-/
+noncomputable def T (S : HarmonicOscillator) : ℝ := 2 * π / S.ω
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: I would rename this to `period`, and then definition notation that lets you use `T`. This hasn't been done elsewhere in this module, but it likely should be done at some point.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 2]
```diff
@@ -880,14 +849,51 @@ We give some open TODOs for the classical harmonic oscillator.
...
+
+lemma T.def : S.T = 2 * π / S.ω := rfl
+
+lemma T.pos : 0 < S.T := by
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: `period_pos`

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 3]
```diff
@@ -880,14 +849,51 @@ We give some open TODOs for the classical harmonic oscillator.
...
 -/
 
+end InitialConditions
+
+/--
+The period of a Harmonic Osciallator is `2 * π / ω`.
+-/
+noncomputable def T (S : HarmonicOscillator) : ℝ := 2 * π / S.ω
+
+lemma T.def : S.T = 2 * π / S.ω := rfl
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: `period_eq`

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 4]
```diff
@@ -880,14 +849,51 @@ We give some open TODOs for the classical harmonic oscillator.
...
+
+/--
+The trajectory of the harmonic oscialltor is periodic with period of `2 * π / ω`.
+-/
+lemma trajectory_periodic (IC : InitialConditions) :
+    Function.Periodic (IC.trajectory S) S.T := by
+  simp only [Function.Periodic, InitialConditions.trajectory, add_val]
+  intro t
+  have h1 : Real.cos (S.ω * (t.val + S.T)) = Real.cos (S.ω * t) :=
+    calc
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: I suspect this can be golfed to be made shorter, does `grind` work here? No worries if you can't get it shorter though.

**Review by jstoobysmith — COMMENTED** [review]
Couple of comments, but looks like a very nice PR :).

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean (hunk 4 above)
Comment (Bergschaf) [reply Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Thanks for your quick review! grind does not work here, the anoying thing about this proof is, that omega and 1/omega have to be next to each other for the lemma to work, which is why I am using calc. However, I managed to get down to just one `have`

Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Does `field_simp` work then?

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 5]
```diff
@@ -880,14 +849,42 @@ We give some open TODOs for the classical harmonic oscillator.
 
 -/
 
+end InitialConditions
+
+/--
+The period of a Harmonic Osciallator is `2 * π / ω`.
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: This misspelling of Oscillator also will need fixing for the linters.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean (hunk 3 above)
Comment (jstoobysmith) [reply Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Will need documentation I think.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 6]
```diff
@@ -880,14 +849,42 @@ We give some open TODOs for the classical harmonic oscillator.
...
+-/
+noncomputable def period (S : HarmonicOscillator) : ℝ := 2 * π / S.ω
+
+noncomputable abbrev T := HarmonicOscillator.period
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: scoped notation "T" => HarmonicOscillator.period 

probably safer here.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean (hunk 4 above)
Comment (Bergschaf) [reply Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Oh, yes, that works. It needs to know that omega is not equal to zero though.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 7]
```diff
@@ -872,6 +841,33 @@ lemma trajectory_velocity_eq_zero_iff (IC : InitialConditions) (t : Time) :
...
     apply ω_ne_zero
     exact Ne.symm (Nat.zero_ne_add_one 1)
+end InitialConditions
+
+/--
+The period of a harmonic oscillator is `2 * π / ω`.
+-/
+noncomputable def period (S : HarmonicOscillator) : ℝ := 2 * π / S.ω
+
+scoped notation "T" => HarmonicOscillator.period
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean:852]: One last thing: I think you are going to need `@[inherit_doc period]` i.e. 

```suggestion
@[inherit_doc period]
scoped notation "T" => HarmonicOscillator.period
```

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks and congrats on your first PR :). Will merge shortly.
